US05268388
Step A: 4-Chloro-2-(2-methoxy-1-methyl-2-oxoethoxy)benzoic acid, methyl ester
A solution of methyl 4-chlorosalicylate (5.0 g) in dimethylformamide (10 ml) was treated sequentially with methyl 3-bromopropionate (4.0 g) and potassium carbonate (6.0 g). The mixture was stirred at room temperature for 18 hrs and diluted with water. The mixture was extracted with ether and the organics were washed with water. The organic layer was dried and evaporated to give the desired material (6.7 g) as a low melting solid.

reactant | methyl 4-chlorosalicylate | 5.0 g | ClC=1C=C(C(C(=O)OC)=CC1)O | C8H7ClO3
reactant | methyl 3-bromopropionate | 4.0 g | BrCCC(=O)OC | C4H7BrO2
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Chloro-2-(2-methoxy-1-methyl-2-oxoethoxy)benzoic acid, methyl ester | 6.7 g | ClC1=CC(=C(C(=O)OC)C=C1)OC(C(=O)OC)C | C12H13ClO5
